US06329366B1
Phosphorus pentoxide (4.49 g, 0.032 mol) was added to a stirred solution of N-(4-methylthiophenyl)-2,2-dimethylmalonamic acid (5.0 g, 0.020 mol) in methanesulfonic acid (35 ml). The reaction mixture was warmed to 70° C. and stirred for 90 mins. The product mixture was then cooled to room temperature and poured over ice. The product was extracted with ethyl acetate (2×200 ml). The organic extracts were combined, washed with water (200 ml), saturated sodium hydrogen carbonate solution (200 ml), dried (MgSO4) and concentrated in vacuo to give 3,3-dimethyl-6-methylthio-2,4(1H,3H)-quinolinedione as a yellow solid. Mp 152° C.

reactant | Phosphorus pentoxide | 0.032 mol, 4.49 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | N-(4-methylthiophenyl)-2,2-dimethylmalonamic acid | 0.020 mol, 5.0 g | CSC1=CC=C(C=C1)NC(C(C(=O)O)(C)C)=O | C12H15NO3S
solvent | methanesulfonic acid | 35 ml | CS(=O)(=O)O | CH4O3S
product | 3,3-dimethyl-6-methylthio-2,4(1H,3H)-quinolinedione | CC1(C(NC2=CC=C(C=C2C1=O)SC)=O)C | C12H13NO2S
